reaction_geognn/datasets/wb97xd3/splits/fold_0/aam_train.csv
AAM,ea
[C:1]([C:2]([N:3](/[C:4](=[N:5]/[H:14])[C:6]#[N:7])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([N:3]([C:4](=[N:5][H:14])[N+:7]#[C-:6])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],48.528175661885605
[O:1]([C:2]([C:3]([O:4]/[C:5](=[N:6]/[H:13])[H:12])([H:10])[H:11])([H:8])[H:9])[H:7]>>[O:1]1[C:2]([H:8])([H:9])[C:3]1([H:10])[H:11].[O:4]=[C:5]([N:6]([H:7])[H:13])[H:12],61.0192166070782
[C:1]([C:2]1([H:10])[C:3]([H:11])([H:12])[C:4](=[O:5])[C:6]1([H:13])[H:14])([H:7])([H:8])[H:9]>>[C:1]([C-:2]1[C:3]([H:11])([H:12])[C+:4]([O:5][H:10])[C:6]1([H:13])[H:14])([H:7])([H:8])[H:9],96.4552854619567
[C:1]([C:2](=[O:3])[O:4]/[C:5](=[N:6]/[H:11])[H:10])([H:7])([H:8])[H:9]>>[C:1]([C:2](=[O:3])[H:8])([N:6]([C:5](=[O:4])[H:10])[H:11])([H:7])[H:9],107.633838925295
[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([H:7])[H:8])([H:4])([H:5])[H:6]>>[C:1](=[C:2]([H:7])[H:8])([H:4])[H:5].[C:3]([H:6])([H:9])([H:10])[H:11],115.242330321812
[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])[C@@:4]2([O:5][H:14])[C:6]([H:15])([H:16])[C@@:7]12[H:17])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])[C@:7]1([C:6]([C:4][O:5][H:14])([H:15])[H:16])[H:17])([H:8])([H:9])[H:10],65.8846650292668
[C:1]1([H:8])([H:9])[N:2]([H:10])[C@:3]12[C@:4]1([H:11])[C:5]([H:12])([H:13])[C@@:6]2([H:14])[O:7]1>>[C:1]1([H:8])([H:9])[N:2]([H:10])[C@:3]1([C@@:4]1([H:11])[C:5]([H:12])([H:13])[C-:6]=[O+:7]1)[H:14],62.4537848400412
[N:1]([C:2](=[O:3])[N:4](/[C:5](=[N:6]/[H:11])[H:10])[H:9])([H:7])[H:8]>>[N:1]([C:2](=[O:3])[N:4]([C-:5]=[N+:6]([H:10])[H:11])[H:9])([H:7])[H:8],76.5760175824986
[C:1](=[N:2][C:3]([O:4][C:5](=[O:6])[H:11])([H:8])[H:10])([H:7])[H:9]>>[C:1](/[N:2]=[C:3](\[O:4][C:5](=[O:6])[H:11])[H:10])([H:7])([H:8])[H:9],73.06750803934665
[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])[C@:4]([O:5][H:14])([H:17])[C:6]([H:15])([H:16])[C:7]1)([H:8])([H:9])[H:10]>>[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])[C@@:4]2([O:5][H:14])[C:6]([H:15])([H:16])[C@@:7]12[H:17])([H:8])([H:9])[H:10],24.231764193113
[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C:4]#[C:5][H:14])[C:6]#[C:7][H:15])([H:8])([H:9])[H:10]>>[C:1]([C:2](=[C:4]=[C:5]([C:3]([H:11])([H:12])[H:13])[H:14])[C:6]#[C:7][H:15])([H:8])([H:9])[H:10],88.1297699617188
[C:1]([C:6]1=[N:7][C:2]([H:11])([H:12])[O:3]/[C:4]1=[N:5]/[H:13])([H:8])([H:9])[H:10]>>[C:1]([C:2]([O:3]/[C:4](=[N:5]/[H:13])[C:6]#[N:7])([H:11])[H:12])([H:8])([H:9])[H:10],118.93355194121192
[C:1]([C@@:2]1([H:10])[C:3]([H:11])([H:12])[C@:4]1([C:5]#[N:6])[H:13])([H:7])([H:8])[H:9]>>[C:1]1([H:7])([H:9])[C:2]([H:8])([H:10])[C:3]([H:11])([H:12])[C:4]([H:13])=[C:5]=[N:6]1,83.0674790399893
[C:1]([C:2]([C:3]([C:4]([C:5]#[N:6])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1](/[C:2](=[C:3](/[C:4]([C:5]#[N:6])([H:14])[H:15])[H:13])[H:10])([H:8])([H:9])[H:11].[H:7][H:12],115.62576531807801
[O:1]([C:2]([C:3]([O:4][C:5](=[O:6])[H:12])([H:10])[H:11])([H:8])[H:9])[H:7]>>[O:1]([C:2]([C:3]([O+:4]=[C-:5][O:6][H:12])([H:10])[H:11])([H:8])[H:9])[H:7],77.0189480790268
[C-:2](=[O+:3][C:4](=[O:5])[C:6]([H:12])([H:13])[H:14])[H:10].[C:1]([H:7])([H:8])([H:9])[H:11]>>[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]([H:12])([H:13])[H:14])([H:10])[H:11])([H:7])([H:8])[H:9],15.299320504977814
[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([C:4](=[O:5])[H:13])[H:9])([H:6])([H:7])[H:8]>>[C:1]([C:2]1([C:3]([H:10])([H:11])[H:12])[C:4]([H:9])([H:13])[O:5]1)([H:6])([H:7])[H:8],75.30906729534941
[C:1]([C@@:2]([O:3][H:11])([C:4]([C:5](=[O:6])[H:14])([H:12])[H:13])[H:10])([H:7])([H:8])[H:9]>>[C:1]([C:4]([C:2](=[O:3])[H:10])([H:12])[H:13])([H:7])([H:8])[H:9].[C:5](=[O:6])([H:11])[H:14],107.011615893313
[C:1]([H:7])([H:8])([H:9])[H:13].[C:2](=[O+:3][C:4](=[C:5]([O-:6])[H:14])[H:12])([H:10])[H:11]>>[C:1]([C:2]([O:3][C:4]([C:5](=[O:6])[H:14])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9],27.631975103892103
[C:1]([C:2]([N+:3]([C-:4]([C:5]#[N:6])[H:13])([H:12])[H:14])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([N:3]([C:4]([C:5]#[N:6])([H:13])[H:14])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9],24.374320871248685
[C:1](=[C:2]([C:3]#[N:4])[H:11])([H:8])[H:9].[C:5](=[O:6])([C:7]([H:12])([H:13])[H:14])[H:10]>>[C:1]([C@@:2]([C:3]#[N:4])([C:5](=[O:6])[C:7]([H:12])([H:13])[H:14])[H:11])([H:8])([H:9])[H:10],57.756911206460906
[C:1]([C:2](=[O:3])[C:4]#[C:5][H:9])([H:6])([H:7])[H:8]>>[C:1](=[C:2]([O:3][H:6])[C:4]#[C:5][H:9])([H:7])[H:8],65.9565816277076
[C:1]([O:2][c:3]1[n:4][n:5]([H:11])[c:6]([H:12])[c:7]1[H:13])([H:8])([H:9])[H:10]>>[C:1]([O:2][C:3]#[N+:4][N-:5][H:11])([H:8])([H:9])[H:10].[C:6](#[C:7][H:13])[H:12],121.894152251606
[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([O:4][H:13])[C:5]([O:6][H:16])([H:14])[H:15])([H:7])([H:8])[H:9]>>[C:1]([C:5]([C:2]([C:3]([H:10])([H:11])[H:12])=[O:4])([H:14])[H:15])([H:7])([H:8])[H:9].[O:6]([H:13])[H:16],74.8543179941702
[O:1]([C:2]([C:3]([O:4][C:5](=[O:6])[H:12])([H:10])[H:11])([H:8])[H:9])[H:7]>>[O:1]1[C:2]([H:8])([H:9])[C:3]1([H:10])[H:11].[O:4]=[C:5]([O:6][H:7])[H:12],63.5833479200371
